US07163944B2
Under ice cooling, potassium carbonate (7.23 g, 52.3 mmol) and benzyl bromide (5.45 mL, 45.8 mmol) were added to a solution of 4-nitro-3,5-bis(trifluoromethyl)phenol (12.0 g, 43.6 mmol) in acetone (250 mL). After stirring at 50° C. for 13 hours, the reaction mixture was filtered and the insoluble matter was washed with acetone. To the residue obtained by distilling the filtrate under reduced pressure, ethyl acetate and water were added to allow it to separate into layers. The aqueous layer was extracted twice with ethyl acetate. The organic layers were combined, washed successively with water and saturated saline, dried over anhydrous sodium sulfate, and distilled under reduced pressure to remove the solvent. The residue was recrystallized from hexane-acetone, whereby 15.0 g (yield: 94.3%) of 4-benzyloxy-2,6-bis(trifluoromethyl)nitrobenzene was obtained as pale yellow needle-like crystals.

reactant | potassium carbonate | 52.3 mmol, 7.23 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 45.8 mmol, 5.45 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 4-nitro-3,5-bis(trifluoromethyl)phenol | 43.6 mmol, 12.0 g | [N+](=O)([O-])C1=C(C=C(C=C1C(F)(F)F)O)C(F)(F)F | C8H3F6NO3
solvent | acetone | 250 mL | CC(=O)C | C3H6O
product | 4-benzyloxy-2,6-bis(trifluoromethyl)nitrobenzene | 15.0 g, yield: 94.3% | C(C1=CC=CC=C1)OC1=CC(=C(C(=C1)C(F)(F)F)[N+](=O)[O-])C(F)(F)F | C15H9F6NO3
